US09422293B2
(4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine
To a solution of 7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol (185 mg, 0.60 mmol) in CH3CN (2 mL) was added POCl3 (0.11 mL, 1.19 mmol). The reaction mixture was heated at 90° C. for 2 h. The mixture was cooled to rt, diluted with EtOAc, and quenched slowly with saturated (satd.) aq. NaHCO3. The combined organic layers were dried (Na2SO4) and concentrated. The crude residue was purified (FCC) to give the title compound (65 mg, 33%).

reactant | 7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol | 0.60 mmol, 185 mg | FC(C=1C(=NC=CC1)N1CCC2=C(CC1)C(=NC=N2)O)(F)F | C14H13F3N4O
reactant | POCl3 | 1.19 mmol, 0.11 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine | 65 mg, 33% | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F | C24H26F3N5
